US06541638B2
80 mg (0.134 mmol) (2S,4R)-4-[[[[4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-acetyl]-methyl-amino]-benzoic acid methyl ester in 5 ml methanol were treated with 335 μl 0.6M (0.2 mmol) sodium methanolate in methanol at 0° C. for 1 h. The solution was poured on EtOAc/1M KHSO4 and the inorganic phase was extracted with EtOAc, the organic phases were washed with brine, dried over Na2SO4 and were evaporated. Column chromatography with EtOAc yielded 70 mg (quant) (2S,4R)-4-[[[[4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetyl]-methyl-amino]-benzoic acid methyl ester as white foam, MS: 556 (MH+).

reactant | (2S,4R)-4-[[[[4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-acetyl]-methyl-amino]-benzoic acid methyl ester | 0.134 mmol, 80 mg | COC(C1=CC=C(C=C1)N(C)C(CNC(=O)[C@H]1N(C[C@@H](C1)SC(C)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)=O | C28H29N3O7S2
reactant | sodium methanolate | 0.2 mmol, 0.6M, 335 μl | C[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (2S,4R)-4-[[[[4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetyl]-methyl-amino]-benzoic acid methyl ester | 70 mg | COC(C1=CC=C(C=C1)N(C)C(CN(C)C(=O)[C@H]1N(C[C@@H](C1)S)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)=O | C27H29N3O6S2
